US08802659B2
4-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-butyric acid tert-butyl ester
A solution of 6-(4-tert-butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (45 mg, 0.15 mmol, 4-amino-butyric acid tert-butyl ester HCl salt (115 mg, 0.59 mmol), and triethylamine (81 μL, 0.58 mmol) in 1,2-dichloroethane (1.5 mL) was treated with sodium triacetoxyborohydride (65 mg, 0.29 mmol). After stirring at room temperature over night, the mixture was diluted with dichloromethane and washed with aqueous sodium bicarbonate. The organic phase was dried over MgSO4, filtered and concentrated and residue was purified by silica gel column eluted with ethyl acetate in hexane from 0 to 100% to give colorless oil (33 mg, yield: 50%). ESI-MS: 454.4 (M+H)+; 1H NMR (400 MHz, CDCl3) δ=7.65-7.70 (m, 3H), 7.38-7.40 (dd, 1H), 7.10-7.14 (m, 2H), 4.22-4.28 (m, 1H), 3.90 (s, 2H), 2.67 (t, 2H), 2.28 (t, 4H), 1.89 (d, 2H), 1.81 (t, 2H), 1.40 (m, 1H), 1.42 (s, 9H), 1.30 (m, 4H), 0.9 (s, 9H).

reactant | 6-(4-tert-butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | 4-amino-butyric acid tert-butyl ester HCl salt | 0.59 mmol, 115 mg | Cl.C(C)(C)(C)OC(CCCN)=O
reactant | triethylamine | 0.58 mmol, 81 μL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.29 mmol, 65 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1.5 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-butyric acid tert-butyl ester | 33 mg, yield: 50% | C(C)(C)(C)OC(CCCNCC1=CC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C29H43NO3
